US07943609B2
A solution of (2S)-2-[(7-bromo-3-nitroquinolin-4-yl)amino]propan-1-ol (30.0 g, 92.0 mmol) dissolved in 100 mL of anhydrous pyridine was treated with tert-butyldimethylsilyl chloride (15.2 g, 101.2 mmol) and a catalytic amount of DMAP (112 mg, 0.92 mmol). After stirring overnight at ambient temperature under an atmosphere of N2, the reaction mixture was concentrated under reduced pressure. The resulting solid was partitioned between CH2Cl2 (500 mL) and H2O (500 mL). The layers were separated and the organic portion was concentrated under reduced pressure to give 40.5 g of 7-bromo-N-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-3-nitroquinolin-4-amine as a yellow, crystalline solid.

reactant | (2S)-2-[(7-bromo-3-nitroquinolin-4-yl)amino]propan-1-ol | 92.0 mmol, 30.0 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])N[C@H](CO)C | C12H12BrN3O3
reactant | tert-butyldimethylsilyl chloride | 101.2 mmol, 15.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.92 mmol, 112 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-bromo-N-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-3-nitroquinolin-4-amine | 40.5 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])N[C@H](CO[Si](C)(C)C(C)(C)C)C | C18H26BrN3O3Si
